US06884821B1
Using 2-chloro-4-phenylbenzoic acid and ethyl 3-[3-([(tert-butoxycarbonyl)amino]methyl)-4-methoxyphenyl]-2-isopropoxypropanoate, 3-(3-[(2-chloro-4-phenylbenzoyl)amino]methyl-4-methoxyphenyl)-2-isopropoxypropanoic acid was obtained in the same method as in Example 38).

reactant | 2-chloro-4-phenylbenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)C1=CC=CC=C1 | C13H9ClO2
reactant | ethyl 3-[3-([(tert-butoxycarbonyl)amino]methyl)-4-methoxyphenyl]-2-isopropoxypropanoate | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C21H33NO6
product | 3-(3-[(2-chloro-4-phenylbenzoyl)amino]methyl-4-methoxyphenyl)-2-isopropoxypropanoic acid | ClC1=C(C(=O)NCC=2C=C(C=CC2OC)CC(C(=O)O)OC(C)C)C=CC(=C1)C1=CC=CC=C1 | C27H28ClNO5
